US04587049
30 g (0.092 mole) of diethyl N-(2,4-dimethoxybenzyl)-amino-malonate prepared according to paragraph (b) of Example 1 are dissolved in a mixture of 90 ml of benzene and 15.6 ml (11.2 g, 0.111 mole) of triethyl amine and thereafter 20.5 g (0.111 mole) of 2-bromo butyric acid chloride are added dropwise under external ice-cooling. The reaction mixture is stirred under cooling for half an hour and thereafter at room temperature for half an hour. The precipitated crystalline substance is filtered off and washed twice with 20 ml of benzene. To the combined benzene mother liquor 31.2 g (22.4 g, 0.222 mole) of triethyl amine are added and the mixture is boiled for 6 hours. The precipitated crystalline substance is cooled and filtered. The mother liquor is extracted successively with 100 ml of water, twice with 100 ml of diluted hydrochloric acid each (a mixture of 90 ml of water and 10 ml of hydrochloric acid) and twice with 100 ml of water each. The organic layer is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated. The residual oil is made crystalline by rubbing with petrolether. Thus 31.5 g of diethyl 1-(2,4-dimethoxy-benzyl)-3-ethyl-4-oxo-2,2-azetidinedicarboxylate are obtained. M.p.: 69° C. (from a mixture of benzene and petrolether).

reactant | diethyl N-(2,4-dimethoxybenzyl)-amino-malonate | 0.092 mole, 30 g | COC1=C(CNC(C(=O)OCC)C(=O)OCC)C=CC(=C1)OC | C16H23NO6
reactant | triethyl amine | 0.111 mole, 15.6 ml, 11.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromo butyric acid chloride | 0.111 mole, 20.5 g | BrC(C(=O)Cl)CC | C4H6BrClO
reactant | triethyl amine | 0.222 mole, 31.2 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | diethyl 1-(2,4-dimethoxy-benzyl)-3-ethyl-4-oxo-2,2-azetidinedicarboxylate | 31.5 g | COC1=C(CN2C(C(C2=O)CC)(C(=O)OCC)C(=O)OCC)C=CC(=C1)OC | C20H27NO7
